US06303618B1
6-(2-Phenylethyloxy)purine (NU2023)
2-Phenylethanol (13 ml) was stirred under nitrogen and sodium (0.75 g, 32.36 mmol) was added. The reaction was heated to 60° C. When no sodium remained, anhydrous THF (18 ml) and 6-chloropurine (1.0 g, 6.47 mmol) were added. After refluxing under nitrogen for 5 h, the reaction mixture was allowed cool to room temperature and neutralised with glacial acetic acid. The THF was removed and the remaining alcohol was removed in vacuo. The product was recrystallised from ethanol and isolated as a white crystalline solid (962 mg, 62%), m.p. 209-210° C.; (Found: C, 64.57; H, 5.12; N, 23.54. Calc. for C13H12N4O: C, 64.99; H, 5.03; N, 23.34%); νmax (cm−1) 3135,3063, 3031, 2948, 2897, 2797, 2672, 2583 (NH, C—H); δH (200 MHz, d6-DMSO) 8.483 (1H, s, C(2)H or C(8)H), 8.365 (1H, s, C(2)H or C(8)H), 7.366-7.194 (5H, m, Ph), 4.741 (2H, t, J=7.0 Hz, OCH2), 3.134 (2H, t, J=7.0 Hz, CH2Ph); m/z 240 (M+, 11%), 149 ([M—Bn]+, 11%), 136 ([M—CH2CH2Ph]+, 87%), 119 ([M—OCH2CH2Ph]+, 40%), 104 ([CH2CH2Ph]+, 100%), 91 (BN+, 37%), 77 (Ph+, 55%), 69 (48), 65 (15), 51 (26).

reactant | 2-Phenylethanol | 13 ml | C1(=CC=CC=C1)CCO | C8H10O
reactant | sodium | 32.36 mmol, 0.75 g | [Na] | Na
reactant | THF | 18 ml | C1CCOC1 | C4H8O
reactant | 6-chloropurine | 6.47 mmol, 1.0 g | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(2-Phenylethyloxy)purine | 962 mg, 62% | C1(=CC=CC=C1)CCOC1=C2NC=NC2=NC=N1 | C13H12N4O
